US09029538B2
1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(5,7-dimethoxyquinolin-4-yloxy)-phenyl]-amide was synthesized using 4-(5,7-dimethoxyquinolin-4-yloxy)phenylamine and 3-(4-fluorophenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid by the method for example 38. mp=128-9° C.; LCMS m/z=557 (M+1); 1H NMR (DMSO) δ: 10.87 (s, 1H), 8.85 (s, 1H), 8.52 (m, 1H), 7.72 (m, 2H), 7.33-7.41 (m, 4H), 7.07 (m, 2H), 6.99 (m, 1H), 6.63 (m, 1H), 6.49 (m, 1H), 4.01 (m, 2H), 3.90 (s, 3H), 3.81 (s, 3H), 1.28 (m, 3H).

reactant | 4-(5,7-dimethoxyquinolin-4-yloxy)phenylamine | COC1=C2C(=CC=NC2=CC(=C1)OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3-(4-fluorophenyl)-1-ethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | FC1=CC=C(C=C1)N1C(N(C=C(C1=O)C(=O)O)CC)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(5,7-dimethoxyquinolin-4-yloxy)-phenyl]-amide | COC1=C2C(=CC=NC2=CC(=C1)OC)OC1=CC=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O | C30H25FN4O6
